US08039460B2
Step A: (6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine
Hydrochloric acid (4.0 M in dioxane; 10 mL, 40.1 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]carbamate (618 mg, 1.384 mmol) in 1,4-dioxane (5 mL). After 1 h, the reaction was concentrated to give the title compound as a bis hydrochloride salt (584 mg). MS 347.1 (M+1).

reactant | Hydrochloric acid | 40.1 mmol, 4.0 M, 10 mL | Cl | ClH
reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]carbamate | 1.384 mmol, 618 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)NC(OC(C)(C)C)=O | C20H23F5N4O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)N | C15H15F5N4
